US07932272B2
Quinoline-6-carboxylic acid 3benzyl-benzylamide
To a mixture of quinoline-6-carboxylic acid 3-bromobenzylamide described in Preparation Example E+-8 (8.0 mg, 0.023 mmol), dichloro(1,1′-bis(diphenylphosphino)ferrocene)nickel(II) (3.2 mg, 0.0047 mmol) and tetrahydrofuran (1 mL) was added benzylmagnesium chloride (1.1M tetrahydrofuran solution, 0.088 mL, 0.094 mmol) at room temperature, and the solution was stirred for 30 minutes at 50° C. After cooling, water and ethyl acetate were added for extraction, the solution was washed with brine, the solvent was then evaporated in vacuo. The residue was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (2.1 mg, 0.0045 mmol, 19%) was obtained.

reactant | quinoline-6-carboxylic acid 3-bromobenzylamide | BrC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C17H13BrN2O
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | benzylmagnesium chloride | 0.094 mmol, 1.1M, 0.088 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | water | O | H2O
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Quinoline-6-carboxylic acid 3benzyl-benzylamide | 0.0045 mmol, 2.1 mg, 19% | C(C1=CC=CC=C1)C=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C24H20N2O
